US20010014759A1
A stirred apparatus with gas feed and discharge to an eliminator was initially charged with 100 g (0.593 mol) of 3,5-dimethylbenzoyl chloride together with 0.5 g of iron (III) chloride, and 42 g of chlorine were introduced at 22-28° C. over the course of 3 hours. Fractional distillation gave 78 g of 2-chloro-3,5-dimethylbenzoyl chloride. Boiling range: 113-114° C. at 5 mbar.

reactant | 3,5-dimethylbenzoyl chloride | 0.593 mol, 100 g | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
reactant | chlorine | 42 g | ClCl | Cl2
catalyst | iron (III) chloride | 0.5 g | [Fe](Cl)(Cl)Cl
product | 2-chloro-3,5-dimethylbenzoyl chloride | 78 g | ClC1=C(C(=O)Cl)C=C(C=C1C)C | C9H8Cl2O
